US04820715
B. 4-amino-5-chloro-2-[2-(methylsulfinyl)ethoxy]-N-[2-(diethylamino)ethyl]benzamide hydrochloride monohydrate
A mixture of 4-amino-5-chloro-2[2-(methylsulfinyl)ethoxy]-N-[2-(diethylamino)ethyl]benzamide (84.50 g, 22.5 mmoles), acetone (592 ml) and 2-propanol (169 ml) was stirred and warmed until complete solution (ca. 25° C.) and then 56.2 ml of 4N HCl (1 equivalent) was all at once. The temperature rose to 32° C. After one hour at ambient temperature the mixture was stored at 0° C. for 18 hours. The hydrochloride salt was collected by filtration, rinses with acetone and dried in vacuo over P2O5 for six hours. Yield: 89.6 g (96.6%); mp 117°-124° C.

reactant | 4-amino-5-chloro-2[2-(methylsulfinyl)ethoxy]-N-[2-(diethylamino)ethyl]benzamide | 22.5 mmoles, 84.50 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCCS(=O)C | C16H26ClN3O3S
reactant | acetone | 592 ml | CC(=O)C | C3H6O
reactant | HCl | 4N, 56.2 ml, 1 equivalent | Cl | ClH
solvent | 2-propanol | 169 ml | CC(C)O | C3H8O
product | 4-amino-5-chloro-2-[2-(methylsulfinyl)ethoxy]-N-[2-(diethylamino)ethyl]benzamide hydrochloride monohydrate | O.Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCCS(=O)C | InChI=1S/C16H26ClN3O3S.ClH.H2O/c1-4-20(5-2)7-6-19-16(21)12-10-13(17)14(18)11-15(12)23-8-9-24(3)22;;/h10-11H,4-9,18H2,1-3H3,(H,19,21);1H;1H2
